US04349681
For example, 2-amino-3-chloro-5-trifluoromethylpyridine is reacted with 2,6-difluorobenzoylisocyanate in toluene at 40° C. for 30 minutes, whereby N-(2,6-difluorobenzoyl)-N'-(3-chloro-5-trifluoromethyl-2-pyridyl)urea having a melting point of 214° to 217° C. can be obtained. This compound is effective in inhibiting and controlling various pests, particularly noxious insects. For example, in the insecticidal testing of the compound in a concentration of 800 ppm against larvae of diamondback moth in 3rd or 4th instar, a 100% insecticidal effect can be obtained.

reactant | 2-amino-3-chloro-5-trifluoromethylpyridine | NC1=NC=C(C=C1Cl)C(F)(F)F | C6H4ClF3N2
reactant | 2,6-difluorobenzoylisocyanate | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(2,6-difluorobenzoyl)-N'-(3-chloro-5-trifluoromethyl-2-pyridyl)urea | FC1=C(C(=O)NC(=O)NC2=NC=C(C=C2Cl)C(F)(F)F)C(=CC=C1)F | C14H7ClF5N3O2
